US05446043
3-(2-Pyridyl)prop-2-yn-1-yl bromide hydrobromide used as a starting material was obtained as follows: 2-Propynyl alcohol (35 ml) was added dropwise to a stirred mixture of 2-bromopyridine (13.7 g), bis(triphenylphosphine)palladium chloride (1.54 g), triethylamine (21 ml),cuprous iodide (1.5 g) and acetonitrile (150 ml) and the mixture was stirred at ambient temperature for 30 minutes and then heated to 60° C. for 2 hours. The mixture was cooled to ambient temperature, poured into water (200 ml) and neutralised by adding dilute aqueous hydrochloric acid. The mixture was extracted with methylene chloride (2×500 ml) and the combined extracts were washed with water (500 ml), dried (MgSO4) and evaporated. The residue was purified by columnchromatography eluting with a 1:1 v/v mixture of methylene chloride and ethyl acetate to give 3-(2-pyridyl)prop-2-yn-1-yl alcohol (14 g, 70%), m.p. 78°-80° C. (recrystallised from a mixture of hexane andethyl acetate).

reactant | 3-(2-Pyridyl)prop-2-yn-1-yl bromide hydrobromide | Br.N1=C(C=CC=C1)C#CCBr
reactant | 2-Propynyl alcohol | 35 ml | C(C#C)O | C3H4O
reactant | 2-bromopyridine | 13.7 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | hydrochloric acid | Cl | ClH
catalyst | bis(triphenylphosphine)palladium chloride | 1.54 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 200 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
product | 3-(2-pyridyl)prop-2-yn-1-yl alcohol | 14 g, 70% | N1=C(C=CC=C1)C#CCO | C8H7NO
